US06492348B1
N-{9-[(3aR,4R,6S,6aR)-2,2-dimethyl-6-(3-methyl-1,2,4-oxadiazol-5-yl)tetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-9H-purin-6-yl}-N-cyclopentylamine
A mixture of (3aS,4S,6R,6aR)-6-(6-cyclopentylamino-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid (0.2 g), 2-ethoxy-1-ethoxycarbonyl-1,2-dihydroquinoline (146 mg), acetaldoxime (76 mg) and dimethoxyethane (DME, 25 ml) was heated under reflux for 4 days and then cooled to 22° C. The mixture was concentrated in vacuo and ethyl acetate (40 ml) added to the residue. The resulting suspension was washed with 0.5M citric acid solution (3×20 ml) and the aqueous washings were extracted with ethyl acetate (2×20 ml). The combined organic extracts were washed with water (20 ml) and brine (30 ml) and dried (MgSO4). After concentration in vacuo the residue was purified by chromatography on silica gel, eluting with ethyl acetate:cyclohexane (1:1), to give the title compound (63 mg).

reactant | (3aS,4S,6R,6aR)-6-(6-cyclopentylamino-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid | 0.2 g | C1(CCCC1)NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(=O)O | C18H23N5O5
reactant | 2-ethoxy-1-ethoxycarbonyl-1,2-dihydroquinoline | 146 mg | C(C)OC1N(C2=CC=CC=C2C=C1)C(=O)OCC | C14H17NO3
reactant | acetaldoxime | 76 mg | C(C)=NO | C2H5NO
solvent | dimethoxyethane | 25 ml | C(OC)COC | C4H10O2
product | N-{9-[(3aR,4R,6S,6aR)-2,2-dimethyl-6-(3-methyl-1,2,4-oxadiazol-5-yl)tetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-9H-purin-6-yl}-N-cyclopentylamine | 63 mg | CC1(O[C@@H]2[C@@H](O1)[C@H](O[C@H]2N2C1=NC=NC(=C1N=C2)NC2CCCC2)C2=NC(=NO2)C)C | C20H25N7O4
